US04335042
5-(2-Chlorophenyl)-1,3-dihydro-7-nitro-2H-1,4-benzodiazepin-2-ylidenepropanedioic acid diethyl ester
Diethylmalonate (45.55 ml) was added to THF (200 ml). The mixture was maintained at room temperature with a wet ice bath while sodium hydride (16 g of a 60% oil dispersion) was added portionwise over 1 hr. To the resulting suspension, diethyl chlorophosphate (14.45 ml) was added dropwise over 50 minutes. After a 30 minute agitation cycle, a THF solution of 5-(2-chlorophenyl)-7-nitro-2H-1,4-benzodiazepin-2-one (15.8 g) was added dropwise over 20 minutes. The resulting solution was allowed to agitate for 1 hr. The pH was adjusted from 5.0 to 5.5, and the reaction was concentrated (40° C./30 mm) to remove the THF. To the residue was added cold water (600 ml) and hexane (100 ml). The crystalline solid obtained was filtered and washed with cold water and hexane. After the solid was dried to constant weight, the end product was obtained.

reactant | Diethylmalonate | 45.55 ml | C(C)C(C(=O)[O-])(C(=O)[O-])CC
reactant | sodium hydride | [H-].[Na+]
reactant | diethyl chlorophosphate | 14.45 ml | P(=O)(OCC)(OCC)Cl | C4H10ClO3P
reactant | 5-(2-chlorophenyl)-7-nitro-2H-1,4-benzodiazepin-2-one | 15.8 g | ClC1=C(C=CC=C1)C=1N=CC(N=C2C1C=C(C=C2)[N+](=O)[O-])=O | C15H8ClN3O3
reactant | THF | C1CCOC1 | C4H8O
reactant | THF | 200 ml | C1CCOC1 | C4H8O
product | 5-(2-Chlorophenyl)-1,3-dihydro-7-nitro-2H-1,4-benzodiazepin-2-ylidenepropanedioic acid diethyl ester | C(C)OC(C(C(=O)OCC)=C1NC2=C(C(=NC1)C1=C(C=CC=C1)Cl)C=C(C=C2)[N+](=O)[O-])=O | C22H20ClN3O6
